US04929741
A solution cf 7.3 g (31 mmol) of methyl 4-hydroxy-4[3,4-(methylenedioxy)phenyl]-2-butynoate in 80 ml of methylene chloride was added dropwise at 0° to a suspension of 77 g (0.89 mol) of manganese dioxide in 150 ml of methylene chloride. The reaction mixture was stirred at 0° for 30 minutes, filtered over magnesium sulphate and concentrated. Crystallization of the residue from ether/hexane yielded methyl 3-[3,4-(methylenedioxy) benzoyl)-propiolate of melting point 95°-97°.

reactant | methyl 4-hydroxy-4[3,4-(methylenedioxy)phenyl]-2-butynoate | 31 mmol, 7.3 g | OC(C#CC(=O)OC)C1=CC2=C(C=C1)OCO2 | C12H10O5
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.89 mol, 77 g | [O-2].[O-2].[Mn+4]
product | methyl 3-[3,4-(methylenedioxy) benzoyl)-propiolate | C1OC=2C=C(C(=O)C#CC(=O)OC)C=CC2O1 | C12H8O5
